US04581349
Tetraamino-1,4-benzoquinone
Tetraphthalimido-1,4-benzoquinone (30.00 g, 0.044 mole) is added to 200 ml of 80% hydrazine hydrate. The mixture is heated to 60° C. for two hours. After cooling to room temperature, the mixture is filtered yielding dark purple crystals melting at 260°-262° C.

reactant | Tetraphthalimido-1,4-benzoquinone | 0.044 mole, 30.00 g | C1(C=2C(C(N1C1=C(C(C(=C(C1=O)N1C(C=3C(C1=O)=CC=CC3)=O)N3C(C=1C(C3=O)=CC=CC1)=O)=O)N1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C38H16N4O10
solvent | hydrazine hydrate | 200 ml | O.NN
product | Tetraamino-1,4-benzoquinone | NC1=C(C(C(=C(C1=O)N)N)=O)N | C6H8N4O2
